data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_76103_2,[C:1]([N:7]([H:9])[H:10])([O:8][C:5]([C:2]([H:13])([H:14])[H:15])=[C:6]([C:3]([H:16])([H:17])[H:19])[C:4]([H:18])([H:20])[H:21])([H:11])[H:12]>>[C@@:1]1([N:7]([H:9])[H:10])([H:11])[C@:5]([C:2]([H:13])([H:14])[H:15])([C:6]([C:3]([H:16])([H:17])[H:19])([C:4]([H:18])([H:20])[H:21])[H:12])[O:8]1,56.124854999976606
MR_654614_2,[C:1]1([O:6][H:8])([H:10])[C:2]([N:3]([O:5][H:7])[H:9])([H:11])[O:4]1>>[C:1]([C:2]([N:3]([O:5][H:7])[H:9])([O:4][H:8])[H:11])(=[O:6])[H:10],33.40684500001359
MR_365220_0,[C:1](/[C:6](=[C:3]([C:2](/[N:4]([H:8])[H:9])=[N:7]\[H:12])\[N:5]([H:10])[H:11])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:6]1([H:13])[C:3]([N:5]([H:10])[H:11])=[C:2]([N:4]([H:8])[H:9])[N:7]1[H:12])([H:14])([H:15])[H:16],57.87557999997944
MR_133510_1,[C:1](/[C:4](=[C:8](/[C:3]([C:5]([C:2]([H:19])([H:20])[H:21])[N:7]([H:13])[H:14])[N:6]([H:11])[H:12])[H:15])[O:9][H:10])([H:16])([H:17])[H:18]>>[C:1]([C@:4]1([O:9][H:10])[C@@:5]([C:2]([H:19])([H:20])[H:21])([N:7]([H:13])[H:14])[C:3]([N:6]([H:11])[H:12])=[C:8]1[H:15])([H:16])([H:17])[H:18],44.12203499999762
MR_173570_1,[C:1]([C:2]1([N:3]([H:9])[H:10])[C:4]([H:11])=[C:5]1[H:12])(=[O:6])[O:7][H:8]>>[c:1]1([O:7][H:8])[c:2]([N:3]([H:9])[H:10])[c:5]([H:12])[c:4]([H:11])[o:6]1,30.19216249999729
MR_303008_0,[C:1]([N:2]([C:3]([O:6][H:9])=[O:8])/[C:5](=[N:7]/[N:4]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[N:2]=[C:5](\[N:7]([C:3]([O:6][H:9])=[O:8])[N:4]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15],43.3784475000202
MR_515990_1,[C:1]([N:2]([O:5][H:7])[H:8])(/[C:3]([N:4]([H:9])[H:10])=[N:6]\[H:11])([H:12])[H:13]>>[C:1](=[C:3]([N:4]([H:9])[H:10])[N:6]([N:2]([O:5][H:7])[H:8])[H:11])([H:12])[H:13],73.12131999997476
MR_144332_1,[C:1]([C:3]([O:7][C:2]([H:16])([H:17])[H:18])=[O:9])(/[C:6](=[C:4](/[N:5]([H:11])[H:12])[O:8][H:10])[H:15])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C:3](=[O:9])[C:6]1([C:4]([N:5]([H:11])[H:12])([O:7][C:2]([H:16])([H:17])[H:18])[O:8][H:10])[H:15],68.16407000000638
MR_307135_0,[C:1]([N:4]([N:5]([C:3]([H:16])([H:17])[H:18])[H:8])[N:6]([H:9])[H:10])([O:7][C:2]([H:13])([H:14])[H:15])([H:11])[H:12]>>[C:1]([N:4]([N:6]([H:9])[H:10])[O:7][C:2]([H:13])([H:14])[H:15])([N:5]([C:3]([H:16])([H:17])[H:18])[H:8])([H:11])[H:12],70.44628750002275
MR_699443_0,[C:1]([C:4](=[C:7]([H:15])[H:16])[O:8]/[C:3]([N:5]([H:9])[H:10])=[C:6](/[C:2]([H:17])([H:18])[H:19])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:4]([C:6]([C:2]([H:17])([H:18])[H:19])([C:3]([N:5]([H:9])[H:10])=[O:8])[H:11])=[C:7]([H:15])[H:16])([H:12])([H:13])[H:14],56.2221175000164
MR_141303_1,[C:1]([C:3]([H:16])([H:17])[H:18])([N:4](/[C:5]([C:2]([H:13])([H:14])[H:15])=[N:8]/[O:7][H:10])[O:6][H:9])([H:11])[H:12]>>[C:1]([C:3]([H:16])([H:17])[H:18])([N:8](/[C:5]([C:2]([H:13])([H:14])[H:15])=[N:4]/[O:6][H:9])[O:7][H:10])([H:11])[H:12],65.97597750000205
MR_532247_0,[C:1](=[C:3]([O:7][H:10])[N:8]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:5]([H:16])[H:17])[O:6][H:9])([H:11])[H:12]>>[C:1](/[C:3]([O:7][H:10])=[N:8]/[O:6][H:9])([C:4]([C:2]([H:13])([H:14])[H:15])=[C:5]([H:16])[H:17])([H:11])[H:12],56.38715000002776
MR_428111_0,[C:1]([C:2]([C:3]([C:6]([H:23])([H:24])[H:25])([H:15])[H:16])([N:8]([H:13])[H:14])[H:10])([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])[O:9][N:7]([H:11])[H:12]>>[C:1]([C:2]([N:8]([H:13])[H:14])([O:9][N:7]([H:11])[H:12])[H:10])([C:3]([C:6]([H:23])([H:24])[H:25])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:5]([H:20])([H:21])[H:22],70.6138299999921
MR_471615_0,[C:1]([C:2]([H:17])([H:18])[H:19])(/[C:4](=[C:5](\[C:3]([H:20])([H:21])[H:22])[N:7]([H:13])[H:14])[N:6]([H:11])[H:12])(/[C:8](=[N:9]/[H:15])[H:16])[H:10]>>[C:1](\[C:2]([H:17])([H:18])[H:19])(=[C:4](\[C:5]([C:3]([H:20])([H:21])[H:22])([N:7]([H:13])[H:14])/[C:8](=[N:9]/[H:15])[H:16])[N:6]([H:11])[H:12])[H:10],72.99770250003718
MR_409136_1,[C:1]([C:2]([N:4]([H:12])[H:13])=[O:8])([C:3]([N:5]([H:14])[H:15])=[O:9])([O:6][H:10])[O:7][H:11]>>[C:1](=[C:2]([N:4]([H:12])[H:13])[O:8][C:3]([N:5]([H:14])[H:15])=[O:9])([O:6][H:10])[O:7][H:11],72.71720999996063
MR_541090_1,[C:1]([N:2](/[C:3]([N:8]=[C:4]([N:5]([H:11])[H:12])[N:6]([H:13])[H:14])=[N:9]/[H:15])[O:7][H:10])([H:16])([H:17])[H:18]>>[C:1]([N:2]([C:4]([N:5]([H:11])[H:12])([N:6]([H:13])[H:14])[N:8][C:3][N:9][H:15])[O:7][H:10])([H:16])([H:17])[H:18],50.90719249998799
MR_515311_0,[C:1](\[O:6][H:9])(=[N:7]\[C:5]([C:3]([C:2]([H:14])([H:15])[H:16])=[O:8])([N:4]([H:11])[H:12])[H:13])[H:10]>>[C:1]([C:3]([C:2]([H:14])([H:15])[H:16])=[O:8])([O:6][H:9])(/[N:7]=[C:5](\[N:4]([H:11])[H:12])[H:13])[H:10],64.34761499997563
MR_545149_0,[C:1](/[C:2]([N:3]([H:8])[H:9])=[N:6]\[O:5][C:4](=[O:7])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:2]1([N:3]([H:8])[H:9])[O:5][N:6]1[C:4](=[O:7])[H:10])([H:11])([H:12])[H:13],36.80915000001988
MR_112374_0,[C:1]1([O:5][H:7])([O:6][H:8])[C@@:2]([N:4]([H:10])[H:11])([H:9])[C:3]1([H:12])[H:13]>>[C:1]([C:2](=[C:3]([H:12])[H:13])[H:9])([N:4]([H:10])[H:11])([O:5][H:7])[O:6][H:8],63.16038500001255
